US06780878B2
B. N-(4-chlorophenyl)-2-(1-(4-pyridyl)piperidin-4-yl-methyl]aminopyridine-3-carboxamide
A mixture of 3-chloro-N-(4-chlorophenyl)pyridine-4-carboxamide (130 mg, 0.49 mmol), 1-(4-pyridyl)piperidine-4-methylamine (187 mg, 0.98 mmol), and copper (1) bromide (70 mg) in dimethylformamide (1 mL) was heated at 110° C. After 18 h, the mixture was diluted with MeON, filtered, and concentrated. The residue was treated with 6:1 chloroform:water (10 mL) followed by MeOH until a homogenoeus solution resulted. The solution was treated with hydrogen sulfide (g), heated at reflux for 0.1 h, and filtered through diatomaceous earth. The filtrate was concentrated and the residue taken up in water, 1 N NaOH, and EtOAc. The aqueous layer was washed with EtOAc (3×), the combined extracts were dried (sodium sulfate), filtered and concentrated. The residue was purified by RPHPLC yielding 29 mg (13%) of the title compound as a hydrochloride salt.

reactant | 3-chloro-N-(4-chlorophenyl)pyridine-4-carboxamide | 0.49 mmol, 130 mg | ClC=1C=NC=CC1C(=O)NC1=CC=C(C=C1)Cl | C12H8Cl2N2O
reactant | 1-(4-pyridyl)piperidine-4-methylamine | 0.98 mmol, 187 mg | N1=CC=C(C=C1)N1CCC(CC1)CN | C11H17N3
reactant | hydrogen sulfide | S | H2S
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | copper (1) bromide | 70 mg | [Cu]Br
product | N-(4-chlorophenyl)-2-(1-(4-pyridyl)piperidin-4-yl-methyl]aminopyridine-3-carboxamide | 29 mg, 13% | ClC1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)NCC1CCN(CC1)C1=CC=NC=C1 | C23H24ClN5O
